data/pmechdb/original/mc_train_fold0/raw/train.txt
C=C[C:20](=[O:21])Cl.C=CC1(C2=C(C=CC=C2)N(C1=O)CC3=CC=CC=C3)[O-:10].[HH].[Na+]>>C=CC1(C2=C(C=CC=C2)N(C1=O)CC3=CC=CC=C3)[O:10][C:20](C=C)([O-:21])Cl.[HH].[Na+] 10=20;20,21=21
COC1=C(C(=C(C=C1)OC)Br)[CH:20]([OH:10])[OH+:21]CCCO.C1CCOC1.O.[Cl-]>>C(CO)C[OH:21].COC1=C(C(=C(C=C1)OC)Br)[CH:20]=[OH+:10].C1CCOC1.O.[Cl-] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CN=C=[N:10]C>>[H:20][N+:10](=C=NC)C.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC1C(CCN1C(=O)OC(C)(C)C)OC2=CC(=C(C=C2)OC)C=CNC(=O)C3CCCN3C(=O)OCC=C)I4(C5=C(C=CC=C5)C(=O)O4)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC3C(CCN3C(=O)OC(C)(C)C)OC4=CC(=C(C=C4)OC)C=CNC(=O)C5CCCN5C(=O)OCC=C)OC(=O)C 10=20;20,21=21
[H:20][O+:21]1C2C(=CCC3C24CCN(C3CC5=C4C1=C(C=C5)OC)CC)O.CC[N:10]1CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC.CO.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC.CCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)[O:21]C3C(=CC4)O.CO.CS(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NC(CCSC)C(=O)NC.C1CC[NH:10]CC1.CN(C)C=O>>[H:20][NH+:10]1CCCCC1.CNC(=O)C(CCSC)NC(=O)OC[C-:21]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O 10=20;20,21=21
[B-]([O+:21]=[CH:20]C1C(O1)CC(=C)Br)(F)(F)F.CC(COCC1=CC=C(C=C1)OC)[C:11](=[CH2:10])C[Si](C)(C)C.CCOCC>>[B-]([O:21][CH:20]([CH2:10][C+:11](C[Si](C)(C)C)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F.CCOCC 10,11=10,20;20,21=21
[B:20]1(C2CCCC1CCC2)OC3CCCCC3C.[OH-:10]>>[B-:20]1(C2CCCC1CCC2)([OH:10])OC3CCCCC3C 10=20,
CC1=CC2=C(CC(C2(CCC1)C)[OH+:11][Sn-:10](Cl)(Cl)(Cl)Cl)C(C)C.[Cl-]>>CC1=CC2=C(CC(C2(CCC1)C)[OH:11])C(C)C.Cl[Sn:10](Cl)(Cl)Cl.[Cl-] 10,11=11
[H:20][C:21]1(C=C(O[CH+:22]1)S(=O)(=O)O)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1[N+](=O)[O-])S(=O)(=O)O 10=20;20,21=21,22
[H:20][Cl:21].CC(=CCCC(=CC=[O:10])C)C.CCCCCC1=CC(=CC(=C1)O)O>>[H:20][O+:10]=CC=C(C)CCC=C(C)C.[Cl-:21].CCCCCC1=CC(=CC(=C1)O)O 10=20;20,21=21
CCO[C:20](C)([OH:10])[Cl:21]>>CCO[C:20](=[OH+:10])C.[Cl-:21] 10=20;20,21=21
[B-:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)([CH2:12][CH:11]=[CH:10]C)[O+:21]=[CH:20]CO[Si](C(C)C)(C(C)C)C(C)C>>[B:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)[O:21][CH:20](CO[Si](C(C)C)(C(C)C)C(C)C)[CH:10](C)[CH:11]=[CH2:12] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O:21]C(C[CH:10]=[C:11](C)[O-:12])(C1=CC=C(C=C1)C)C2=[N+](C(=C(S2)CCO)C)CC.CC[NH+](CC)CC.[Br-]>>[H:20][CH:10](CC(C1=CC=C(C=C1)C)(C2=[N+](C(=C(S2)CCO)C)CC)[O-:21])[C:11](=[O:12])C.CC[NH+](CC)CC.[Br-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=C1C2CCC(C1(CC3=CC(=C(C=C23)OC)C)C)O.C1CC[NH:10]C1.O.[Cl-]>>[H:20][NH+:10]1CCCC1.CC1=C(C=C2C3CCC(C(C3=[O:21])(CC2=C1)C)O)OC.O.[Cl-] 10=20;20,21=21
CC1CC(C[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)CC(C)C>>CC1CC(C[CH:20]2C1OC(=[O+:10]2)C)CC(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CCCC[NH2:10].COC1=CC=C(C=C1)[CH2:20][Br:21]>>CCCC[NH2+:10][CH2:20]C1=CC=C(C=C1)OC.[Br-:21] 10=20;20,21=21
[H:20][O:21][P+:22](C)(C)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C[P:22](=[O:21])(C)C 10=20;20,21=21,22
CO[P+:22](C)(OC)[O:21][CH3:20].[Cl-:10]>>CO[P:22](=[O:21])(C)OC.[CH3:20][Cl:10] 10=20;20,21=21,22
[H:20][N:21]1[C:22](=[S:23])N=C(N1)CC(=O)OCC.[OH-:10].CCO.[Na+]>>[H:20][OH:10].CCOC(=O)CC1=N[C:22](=[N:21]N1)[S-:23].CCO.[Na+] 10=20;22,23=23;20,21=21,22
[B-](OCC[O+:21]=[C:20]1CCC(CC[CH:10]2[C:11]1(C3=CC=C(C=C23)C)[OH:12])C)(F)(F)F.CC[SiH](CC)CC>>[B-](OCC[O:21][C:20]12CCC(CC[CH:10]1C3=CC(=CC=C3[C:11]2=[OH+:12])C)C)(F)(F)F.CC[SiH](CC)CC 10,11=10,20;20,21=21;12=11
[H:20][O+:21](C)[Na].CCO[C:11](=[C:10]=C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)[O-:12].CO>>[H:20][C:10](=C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)[C:11](=[O:12])OCC.C[O:21][Na].CO 10,11=10,20;20,21=21;12=11
C[C:20](N(C)C)([O-:10])[O:21]C>>C[C:20](=[O:10])N(C)C.C[O-:21] 10=20;20,21=21
CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(CC=C)[OH+:11][Ti-:10](O)(Cl)(Cl)Cl.C[Si](C)(C)Cl>>CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)C(CC=C)[OH:11].O[Ti:10](Cl)(Cl)Cl.C[Si](C)(C)Cl 10,11=11
[H:20][N+:21](=CN1CCN(CC1)C2=C(C=C3C(=C2)N(C=C(C3=O)C(=O)O)C4CC4)F)NC(=O)C5=CC=C(C=C5)F.CC(=O)[O-:10].CCO>>[H:20][O:10]C(=O)C.C1CC1N2C=C(C(=O)C3=CC(=C(C=C32)N4CCN(CC4)C=[N:21]NC(=O)C5=CC=C(C=C5)F)F)C(=O)O.CCO 10=20;20,21=21
[H:20][C:21]#N.C(C=[N:10]C(=N)N)C#N.O>>[H:20][N+:10](=CCC#N)C(=N)N.[C-:21]#N.O 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CCCC(=O)C.CC[O-:10]>>[H:20][O:10]CC.CC(=O)CCC[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1C=C([N+:23](=[C:22]1C2=C(C=CC(=C2)Cl)OCC3=CC=CC=C3)C4=CC(=CC=C4)S(=O)(=O)N)C.[OH2:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=C[CH:21]=[C:22]([N:23]1C2=CC(=CC=C2)S(=O)(=O)N)C3=C(C=CC(=C3)Cl)OCC4=CC=CC=C4.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CCN(CC)[C:11](=[CH:10]CSCC)[O-:12]>>[H:20][CH:10](CSCC)[C:11](=[O:12])N(CC)CC.[OH2:21] 10,11=10,20;20,21=21;12=11
